US08859557B2
55.3 mg (0.07 mmol) of tert-butyl 4-[1-({[5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]amino}carbonyl)piperidin-4-yl]piperazine-1-carboxylate were initially charged in 4 ml of methanol, and 1.0 ml of 5-6 M hydrochloric acid in isopropanol was added. The mixture was stirred at room temperature. The progress of the reaction was monitored by TLC (silica gel, CH2Cl2/MeOH 9:1). After complete conversion, the alcoholic solvent residues were removed, and the residue was taken up in dichloromethane and, using 1 N aqueous sodium hydroxide solution, adjusted by extraction to pH 9. The organic phase was separated from the aqueous phase, and the aqueous phase was reextracted with dichloromethane (2×). The combined organic phase was dried over magnesium sulphate, and the solvent was removed under reduced pressure. The residue was crystallized from diethyl ether. Alternatively, the residue can also be purified either by conventional column chromatography on a normal phase (NP-SiO2 cartridge, Chromabond) using dichloromethane/methanol as mobile phases or by preparative HPLC (RP, mobile phases acetonitrile/water, 0.01% TFA). After crystallization, 15.9 mg (0.023 mmol, 33%) of N-[5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-piperazin-1-ylpiperidine-1-carboxamide were isolated.

reactant | tert-butyl 4-[1-({[5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]amino}carbonyl)piperidin-4-yl]piperazine-1-carboxylate | 0.07 mmol, 55.3 mg | C(#N)C=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)(C=1C(=NC=CC1)OCC)NC(=O)N1CCC(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C39H47N7O9S
reactant | hydrochloric acid | 5-6 M, 1.0 ml | Cl | ClH
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | methanol | 4 ml | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-[5-cyano-1-[(2,4-dimethoxyphenyl)sulphonyl]-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-piperazin-1-ylpiperidine-1-carboxamide | 0.023 mmol, 15.9 mg, 33% | C(#N)C=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)(C=1C(=NC=CC1)OCC)NC(=O)N1CCC(CC1)N1CCNCC1 | C34H39N7O7S
